US04740602
A suspension of 40.2 g of 2-[4-(5-methoxy-3-indolyl)-1,4-dioxobutyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine [obtainable from 4-(5-methoxy-3-indolyl)-4-oxobutyric acid and 1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine] in 3 l of hot absolute THF is added dropwise, with stirring, to a suspension of 23.4 g of LiAlH4 in 1100 ml of absolute THF, and the mixture is boiled for 1 hour, cooled, and decomposition is carried out with water and sodium hydroxide solution, and the usual working up is carried out. 2-[4-(5-methoxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine is obtained, Rf 0.5 (ethyl acetate).

reactant | 2-[4-(5-methoxy-3-indolyl)-1,4-dioxobutyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | 40.2 g | COC=1C=C2C(=CNC2=CC1)C(CCC(=O)N1CC2=C(CC1)C1=C(O2)C=CC=C1)=O | C24H22N2O4
reactant | LiAlH4 | 23.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 3 l | C1CCOC1 | C4H8O
solvent | THF | 1100 ml | C1CCOC1 | C4H8O
product | 2-[4-(5-methoxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | COC=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H26N2O2
